US07012138B1
Working as in Example 35, with 0.389 g of phase, 0.18 g of LiOH monohydrate, 60 ml of THF and hydrolysis for 48 h, 0.31 g of α-phenylpropionic acid and ketoprofen is obtained.

reactant | ketoprofen | OC(=O)C(C)C1=CC(C(=O)C2=CC=CC=C2)=CC=C1 | C16H14O3
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | α-phenylpropionic acid | 0.31 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
